US08349824B2
The product was prepared in the same manner as described in example 28 using 2-(2-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-amine (365 mg, 1.52 mmol) and 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid (331 mg, 1.67 mmol) as starting material. The reaction affords 5-[2-(2-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (410 mg, 64.2%) as white solid. MS: m/z=421.1 (M+H+).

reactant | 2-(2-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-amine | 1.52 mmol, 365 mg | COC1=C(C=CC=C1)C1=NN2C(C=C(C=C2)N)=N1 | C13H12N4O
reactant | 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid | 1.67 mmol, 331 mg | C(C)OC(=O)C=1C=NN(C1C(=O)O)C | C8H10N2O4
product | 5-[2-(2-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 410 mg, 64.2% | C(C)OC(=O)C=1C=NN(C1C(NC1=CC=2N(C=C1)N=C(N2)C2=C(C=CC=C2)OC)=O)C | C21H20N6O4
